US06846929B2
5-[1-(2-Hydroxy-2-methylpropoxy)-2,2,6,6-tetramethylpiperidin-4-yloxycarbonyl]-2-[2-hydroxy-3-(4-chloro-α,α-dimethylbenzyl)-5-tert-butylphenyl]-2H-benzotriazole
5-Methoxycarbonyl2-[2-hydroxy-3-(4-chloro-α,α-dimethylbenzyl)-5-tert-butyl-phenyl]-2H-benzotriazole (3.89 g, 0.0081 mol) and 1-(2-hydroxy-2-methylpropoxy)-2,2,6,6-tetramethyl-4-hydroxypiperidine (2.41 g, 0.0098 mol) are reacted together according to the procedure of Example 1. The title compound is obtained in a yield of 2.26 g (40.2%) as a yellow solid, melting at 80-90° C., whose structure is consistent with 1Hmnr and mass spectrometry. The compound has a molar absorptivity of 17,411 l/mole cm.

reactant | 5-Methoxycarbonyl2-[2-hydroxy-3-(4-chloro-α,α-dimethylbenzyl)-5-tert-butyl-phenyl]-2H-benzotriazole | 0.0081 mol, 3.89 g | COC(=O)C1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)C)C(C2=CC=C(C=C2)Cl)(C)C)O)C=C1 | C27H28ClN3O3
reactant | 1-(2-hydroxy-2-methylpropoxy)-2,2,6,6-tetramethyl-4-hydroxypiperidine | 0.0098 mol, 2.41 g | OC(CON1C(CC(CC1(C)C)O)(C)C)(C)C | C13H27NO3
product | 5-[1-(2-Hydroxy-2-methylpropoxy)-2,2,6,6-tetramethylpiperidin-4-yloxycarbonyl]-2-[2-hydroxy-3-(4-chloro-α,α-dimethylbenzyl)-5-tert-butylphenyl]-2H-benzotriazole | OC(CON1C(CC(CC1(C)C)OC(=O)C1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)C)C(C2=CC=C(C=C2)Cl)(C)C)O)C=C1)(C)C)(C)C | C39H51ClN4O5
